US05808062
6-(1,3-Benzodioxol-5-yl)-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one:
The title compound was prepared by Method A using 3',4'-(methylenedioxy)acetophenone (0.871 g, 5.31 mmol), lithium bis(trimethylsilyl)amide (0.977 g, 5.84 mmol), chlorotrimethylsilane (0.741 mL, 5.84 mmol), THF (58 mL), and diethyl ester of [(phenylmethyl)thio]propanedioic acid (1.00 g, 3.54 mmol). m.p. dec. 170° C.; 1H NMR (400 MHz, DMSO-d6) δ 3.98 (s, 2 H), 6.13 (s, 2 H), 6.61 (s, 1 H), 7.05 (d, 2 H), 7.27 (m, 7 H).

reactant | 3',4'-(methylenedioxy)acetophenone | 5.31 mmol, 0.871 g | C1OC=2C=C(C=CC2O1)C(C)=O | C9H8O3
reactant | lithium bis(trimethylsilyl)amide | 5.84 mmol, 0.977 g | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | chlorotrimethylsilane | 5.84 mmol, 0.741 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | [(phenylmethyl)thio]propanedioic acid | 3.54 mmol, 1.00 g | C1(=CC=CC=C1)CSC(C(=O)O)C(=O)O | C10H10O4S
solvent | THF | 58 mL | C1CCOC1 | C4H8O
product | 6-(1,3-Benzodioxol-5-yl)-4-hydroxy-3-[(phenylmethyl)thio]-2H-pyran-2-one | O1COC2=C1C=CC(=C2)C2=CC(=C(C(O2)=O)SCC2=CC=CC=C2)O | C19H14O5S
